US04560699
To a solution of 300 mg of 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in pb 5 ml of methanol is added 1 molar equivalent of sodium hydroxide, in the form of a 0.1 N solution. The solvent is taken up in 2 ml of methanol, followed by precipitation with ether, to yield crude sodium 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]-pyrrole-1-carboxylate which can be crystallized from ethyl acetate-hexane.

reactant | 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 300 mg | C(=C)C1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)O)C=C1 | C17H15NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | sodium 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]-pyrrole-1-carboxylate | C(=C)C1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)[O-])C=C1.[Na+] | InChI=1S/C17H15NO3.Na/c1-2-11-3-5-12(6-4-11)16(19)15-8-7-14-13(17(20)21)9-10-18(14)15;/h2-8,13H,1,9-10H2,(H,20,21);/q;+1/p-1
